US03979387
A 1 g. portion of tetrazolo[1,5-a]quinoxaline was dissolved in 200 ml. of ethanol. The solution was placed in a Parr hydrogenator on a shaking apparatus and 100 mg. of 5 percent palladized charcoal was added. The bomb was pressurized to about 2 atmospheres with hydrogen and was shaken for 2 hours. The reaction mixture was then removed and filtered. The filtrate was evaporated to dryness and the residue was recrystallized from ethanol-water to obtain the product, 4,5-dihydrotetrazolo[1,5-a]quinoxaline, m.p. 149°-51°C., in 45 percent yield. The product was identified by nuclear magnetic resonance analysis and by elemental microanalysis, with the following results.

reactant | tetrazolo[1,5-a]quinoxaline | N1=NN=C2N1C1=CC=CC=C1N=C2 | C8H5N5
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
product | 4,5-dihydrotetrazolo[1,5-a]quinoxaline | 45 percent yield | N1=NN=C2N1C1=CC=CC=C1NC2 | C8H7N5
